US07462620B2
Ethyl 2-(2-[2-(4-fluorophenyl)-ethyl]-4-oxo-4H-quinazolin-1-yl)-acetate
A solution of 3-(4-fluorophenyl)-propionamidine hydrochloride (Int. A108) (0.42 g, 2.05 mmol) and ethyl 2-(2,4-dioxo-4H-benzo[d][1,3]oxazin-1-yl)-acetate (0.51 g, 2.05 mmol) in pyridine (20 ml) was heated at reflux for 16 h, allowed to cool then concentrated in vacuo. The residues were chromatographed over silica eluting with ethyl acetate to yield the product as a white solid (0.26 g, 36%). 1H-NMR (CDCl3) δ 1.24 (3H, t,), 3.0 (2H, m), 3.17 (2H, m), 4.24 (2H, q), 5.29 (2H, s), 6.95 (2H, m), 7.2-7.3 (3H, m), 7.40 (1H, m), 7.67 (1H, m), 8.29 (1H, dd); MS (APCI+) found (M+1)=355; C20H19FN2O3 requires 354.

reactant | 3-(4-fluorophenyl)-propionamidine hydrochloride | 2.05 mmol, 0.42 g | Cl.FC1=CC=C(C=C1)CCC(=N)N
reactant | ethyl 2-(2,4-dioxo-4H-benzo[d][1,3]oxazin-1-yl)-acetate | 2.05 mmol, 0.51 g | O=C1OC(C2=C(N1CC(=O)OCC)C=CC=C2)=O | C12H11NO5
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 2-(2-[2-(4-fluorophenyl)-ethyl]-4-oxo-4H-quinazolin-1-yl)-acetate | 0.26 g, 36% | FC1=CC=C(C=C1)CCC=1N(C2=CC=CC=C2C(N1)=O)CC(=O)OCC | C20H19FN2O3
